US05459273
13.2 g of β-dimethylamino-acrylonitrile were added dropwise at 30° C. to a solution of 22 g of DMF/HCl adduct in 100 ml of DMF. Following an after-reaction time of 2 h, this solution was added dropwise, while passing in HCl, to a solution, saturated at 50° C., of HCl gas in DMF. The temperature was maintained at 50° C. by cooling. After conventional work up (40 ml of water), 2-chloro-5-cyanopyridine was obtained in 77.7% of the theoretical yield, based on the C3 unit employed.

reactant | β-dimethylamino-acrylonitrile | 13.2 g | CN(C=CC#N)C | C5H8N2
reactant | DMF HCl | 22 g | CN(C)C=O.Cl
reactant | water | 40 ml | O | H2O
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | HCl | Cl | ClH
product | 2-chloro-5-cyanopyridine | ClC1=NC=C(C=C1)C#N | C6H3ClN2
